US07888376B2
To a solution of 4-((3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)methyl)-5,5,5-trifluoropentanoic acid (40 mg, 0.061 mmol), prepared by method described in Procedure 3, 5, 6, 7 and 2, in anhydrous THF (1.5 mL) added was dropwise LAH (1.0 M in THF, 0.2 mL). The reaction mixture was stirred at rt for 40 min, then quenched by the addition of 4 N NaOH (1 mL). The aqueous portion was extracted with EtOAc (3×20 mL). The combined organic portions were washed with water and sat. NaCl, dried over Na2SO4, filtered and concentrated under reduced pressure to yield a yellow oil. The resulting oil was purified by preparative HPLC (YMC ODS S5 30×100 mm column 20-100% MeOH (90% in water, 0.1% TFA) gradient over 10 min with flow rate 40 mL/min and UV detection at 220 nm), then further purified by ISCO chromatography (4 g) with 0-50% EtOAc in hexane over 18 min (RT=14-15.5 min) to yield 1-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-3-(5-hydroxy-2-(trifluoromethyl)pentyl)urea as white solid (30 mg, 77% yield). LCMS: RT=2.003 min [M+H] 639 (LCMS Method 2). HPLC: RT=4.10 min, 100% purity (HPLC Method 1). NMR: 400 MHz 1H (CDCl3) 8.17 ppm, 1H, s; 7.59 ppm, 1H, dd, J=8.57, 2.42 Hz; 7.05 ppm, 7H, m; 6.82 ppm, 1H, d, J=8.79 Hz; 6.51 ppm, 2H, t, J=6.81 Hz; 5.82 ppm, 1H, m; 4.60 ppm, 1H, ddd, J=12.08, 6.37, 6.15 Hz; 4.29 ppm, 1H, d, J=12.74 Hz; 3.56 ppm, 2H, dt, J=10.55, 5.27 Hz; 3.43 ppm, 2H, m; 3.34 ppm, 1H, m; 1.64 ppm, 4H, m; 1.54 ppm, 2H, s.

reactant | 4-((3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)methyl)-5,5,5-trifluoropentanoic acid | 0.061 mmol, 40 mg | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(NCC(CCC(=O)O)C(F)(F)F)=O | C28H24ClF8N3O4
reactant | LAH | 1.0 M, 0.2 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 1-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-3-(5-hydroxy-2-(trifluoromethyl)pentyl)urea | 30 mg, 77% yield | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(=O)NCC(CCCO)C(F)(F)F | C28H26ClF8N3O3
